US09399640B2
Step 3. 4-[2-Methoxy-4-(methylamino)-3-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
This compound was synthesized according to the procedure of Example 10, Step 5, using 4-bromo-3-methoxy-N-methyl-2-nitroaniline and 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one as the starting materials. LCMS calculated for C23H23N4O6S (M+H)+: m/z=483.1. found: 483.1.

reactant | 4-bromo-3-methoxy-N-methyl-2-nitroaniline | BrC1=C(C(=C(NC)C=C1)[N+](=O)[O-])OC | C8H9BrN2O3
reactant | 6-methyl-1-[(4-methylphenyl)sulfonyl]-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)=O | C21H25BN2O5S
product | 4-[2-Methoxy-4-(methylamino)-3-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | COC1=C(C=CC(=C1[N+](=O)[O-])NC)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C23H22N4O6S
